US05610144
Benzyl 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionate (B form) may be obtained in a fashion similar to that described in Example 2, but starting from 0.79 g of tert-butyl (2S,5R)-1-(2-aminoacetyl)-5-phenylprolinate and 0.8 g of benzyl 2-(3-isocyanato-phenyl)propionate (B form) in 40 cm3 of tetrahydrofuran. After treatment, 0.9 g of benzyl 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionate, melting at 75° C., is obtained.

reactant | tert-butyl (2S,5R)-1-(2-aminoacetyl)-5-phenylprolinate | 0.79 g | NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CC[C@@H]1C1=CC=CC=C1 | C17H24N2O3
reactant | benzyl 2-(3-isocyanato-phenyl)propionate | 0.8 g | N(=C=O)C=1C=C(C=CC1)C(C(=O)OCC1=CC=CC=C1)C | C17H15NO3
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | benzyl 2-{3-{3-[2-((2S,5R)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenyl}propionate | 0.9 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)C(C(=O)OCC1=CC=CC=C1)C)=O)=O | C34H39N3O6
